US08445684B2
3-[[1-(tert-Butoxycarbonyl)-2(S)-azetidinyl]methoxy]-5-[3-(3-phenylpropoxy)phenyl]pyridine
3-[[1-(tert-Butoxycarbonyl)-2(S)-azetidinyl]methoxy]-5-(trimethylstannyl)pyridine (75 mg, 176 μmol), 1-iodo-3-(3-phenylpropoxy)benzene (59 mg, 174 μmol, 1.0 equiv.) and anhydrous DMF (2 mL) were placed in a 25 mL round-bottom flask with magnetic stirrer. To this mixture were added rapidly copper(I) iodide (3.3 mg, 0.02 mmol, 0.10 equiv.), cesium fluoride (53 mg, 0.35 mmol, 2.0 equiv.), and Pd(PPh3)4 (10.1 mg, 0.01 mmol, 0.05 equiv.). The flask was fitted with a three-way stopcock with nitrogen balloon, and the atmosphere was exchanged. The reaction mixture was heated at 50° C. for 6 h. The bulk of solvent was pumped off at room temperature with an oil pump. The reaction progress was monitored by TLC (EtOAc/petroleum ether 1:1). The residue was chromatographed on silica gel with EtOAc/petroleum ether/Et3N 2:3:0.05. This resulted in 55 mg (66%) of 3-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-5-[3-(3-phenylpropoxy)phenyl]pyridine as a colorless oil. 1H NMR (CDCl3, TMS, 300 MHz) δ 8.48 (s, 1H), 8.33 (s, 1H), 8.02 (s, 1H), 7.57 (br s, 1H), 7.39 (t, 1H, J=8.0 Hz), 7.34-7.19 (m, 4H), 7.16 (d, 1J, J=8.1 Hz), 7.10 (s, 1H), 6.96 (dd, 1H, J=2.1, 8.1 Hz), 4.55 (br m, 1H), 4.43 (br m, 1H), 4.22 (dd, 1H, J=2.5, 10.0 Hz), 4.04 (t, 2H, J=6.3 Hz), 3.91 (t, 2H, J=7.5 Hz), 2.85 (7, 2H, J=7.5 Hz), 2.36 (m, 2H), 2.15 (m, 3H), 1.41 (s, 9H).

reactant | 3-[[1-(tert-Butoxycarbonyl)-2(S)-azetidinyl]methoxy]-5-(trimethylstannyl)pyridine | 176 μmol, 75 mg | C(C)(C)(C)OC(=O)N1[C@@H](CC1)COC=1C=NC=C(C1)[Sn](C)(C)C
reactant | 1-iodo-3-(3-phenylpropoxy)benzene | 174 μmol, 59 mg, 1.0 equiv. | IC1=CC(=CC=C1)OCCCC1=CC=CC=C1 | C15H15IO
reactant | cesium fluoride | 0.35 mmol, 53 mg, 2.0 equiv. | [F-].[Cs+]
catalyst | copper(I) iodide | 0.02 mmol, 3.3 mg, 0.10 equiv. | [Cu]I
catalyst | Pd(PPh3)4 | 0.01 mmol, 10.1 mg, 0.05 equiv. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-[[1-(tert-Butoxycarbonyl)-2(S)-azetidinyl]methoxy]-5-[3-(3-phenylpropoxy)phenyl]pyridine | C(C)(C)(C)OC(=O)N1[C@@H](CC1)COC=1C=NC=C(C1)C1=CC(=CC=C1)OCCCC1=CC=CC=C1 | C29H34N2O4
